US07217708B2
(i) 4-(4-Cyanophenyl)but-3-yn-1-ol
Potassium carbonate (376.7 g, 2.5 mol eq.) was dissolved in a mixture of 1,2-dimethoxyethane (DME, 1.2 L, 6 vol) and water (1.2 L, 6 vol). Palladium on charcoal (20 g, 0.01 mol eq., 10% Johnson Matthey type 87L, 60% water), triphenylphosphine (11.5 g, 0.04 mol eq.) and copper(I) iodide (4.2 g, 0.02 mol eq.) were added. 4-Bromobenzonitrile (200 g, 1 mol eq.) was then added, washing in with a mixture of DME (200 mL, 1 vol) and water (200 mL, 1 vol). This mixture was stirred rapidly under nitrogen for a minimum of thirty minutes. A solution of but-3-yn-1-ol (92.1 mL, 1.1 mol eq) in DME (200 mL, 1 vol) and water (200 mL, 1 vol) was added dropwise over five minutes. The combined mixture was then heated to 80° C. for three hours. The reaction was monitored by HPLC for the disappearance of arylbromide and the formation of sub-title compound. Once all of the starting material had been consumed, the reaction was cooled to 25° C. and filtered through kieselguhr. The filter cake was washed separately with toluene (1.6 L, 8 vol). The DME:water mixture was partially concentrated in vacuo to remove the majority of the DME. This was then partitioned with the toluene wash. The toluene layer was concentrated in vacuo to give sub-title alkyne as a yellow solid, which was dried in a vacuum oven overnight at 40° C. Yield 182.88 g, 97%.

reactant | Potassium carbonate | 2.5 mol, 376.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 0.04 mol, 11.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-Bromobenzonitrile | 1 mol, 200 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | but-3-yn-1-ol | 1.1 mol, 92.1 mL | C(CC#C)O | C4H6O
solvent | 1,2-dimethoxyethane | 1.2 L | COCCOC | C4H10O2
solvent | water | 1.2 L | O | H2O
catalyst | Palladium on charcoal | [Pd] | Pd
solvent | DME | 200 mL | COCCOC | C4H10O2
solvent | water | 200 mL | O | H2O
catalyst | copper(I) iodide | 0.02 mol, 4.2 g | [Cu]I
product | 4-(4-Cyanophenyl)but-3-yn-1-ol | C(#N)C1=CC=C(C=C1)C#CCCO | C11H9NO
